US07902367B2
Step 59a) Methyl 3-(3-aminopiperidin-1-yl)benzoate
Trifluoroacetic acid (2 mL) was added to methyl 3-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate (451 mg, 1.35 mmol) in dichloromethane (2 mL). The reaction mixture was stirred at room temperature for 1 hour. Subsequently, the mixture was concentrated and a saturated aqueous sodium bicarbonate solution was added to the residue to make it basic. The mixture was extracted with ethyl acetate and the organic layer washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave 158 mg (50%) of the desired compound as a pale yellow oil.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 3-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate | 1.35 mmol, 451 mg | C(C)(C)(C)OC(=O)NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C18H26N2O4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Methyl 3-(3-aminopiperidin-1-yl)benzoate | 158 mg, 50% | NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C13H18N2O2
